US05866572
Using an analogous procedure to that described in Example 34, 6-bromomethyl-4-(3-methylanilino)quinazoline was reacted with 2-mercaptobenzimidazole sodium salt to give 6-(2-benzimidazolylthiomethyl)-4-(3-methylanilino)quinazoline in 59% yield, m.p. 123°-129° C.;

reactant | 6-bromomethyl-4-(3-methylanilino)quinazoline | BrCC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | C16H14BrN3
reactant | 2-mercaptobenzimidazole sodium salt | [Na].SC=1NC2=C(N1)C=CC=C2
product | 6-(2-benzimidazolylthiomethyl)-4-(3-methylanilino)quinazoline | 59% yield | N1=C(NC2=C1C=CC=C2)SCC=2C=C1C(=NC=NC1=CC2)NC2=CC(=CC=C2)C | C23H19N5S
